US04400382
4-Methyl-(1H)pyrido(2,3-b)pyrazine-2,3-dione
To a mixture of 8 ml. of oxalyl chloride in 150 ml. dichlorobenzene at 60° C. was added lowly 7.5 g. of 2-amino-3-methylaminopyridine. After completion of addition, the temperature of the reaction mixture was allowed to rise to 130° C. It was stirred at this temperature for 1 hour, filtered hot, and the solid washed with ether, m.p. 168°-174° C.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichlorobenzene | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
reactant | 2-amino-3-methylaminopyridine | NC1=NC=CC=C1NC | C6H9N3
product | 4-Methyl-(1H)pyrido(2,3-b)pyrazine-2,3-dione | CN1C2=C(NC(C1=O)=O)C=CC=N2 | C8H7N3O2
